US08258144B2
To a suspension of above 2-benzoxy-N-methyl-N-(4-nitrophenyl)acetamide in EtOH (8 mL) and H2O (4 mL) was added ammonium formate (1.3 g, 20 mmol) and Fe (0.47 g, 8.4 mmol). After heating at reflux for 2 h, the reaction was cooled to room temperature, iron was filtered off, and the filtrate was diluted with EtOAc and water, EtOAc layer was separated and the aqueous layer was further extracted with EtOAc, organic layers were combined, dried over Na2SO4, and was concentrated under vacuo to provide 2-benzoxy-N-methyl-N-(4-aminophenyl)acetamide (0.4 g, 53%).

reactant | 2-benzoxy-N-methyl-N-(4-nitrophenyl)acetamide | C(C1=CC=CC=C1)OCC(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])C | C16H16N2O4
reactant | ammonium formate | 20 mmol, 1.3 g | C(=O)[O-].[NH4+]
solvent | EtOH | 8 mL | CCO | C2H6O
solvent | H2O | 4 mL | O | H2O
catalyst | Fe | 8.4 mmol, 0.47 g | [Fe] | Fe
product | 2-benzoxy-N-methyl-N-(4-aminophenyl)acetamide | 0.4 g, 53% | C(C1=CC=CC=C1)OCC(=O)N(C1=CC=C(C=C1)N)C | C16H18N2O2
